US06326333B1
8-Methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylic acid
9.6 g (0.04 mol) of methyl 8-methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylate were initially charged in 100 ml of a 1:1 mixture of water/methanol and 2.4 g (0.06 mol) of sodium hydroxide were added. The solution was heated under reflux for two hours, then the organic solvent was distilled off, 200 ml of water were added and the mixture was acidified with cooling using conc. hydrochloric acid. The precipitate was filtered off with suction, washed with water and dried.

reactant | methyl 8-methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylate | 0.04 mol, 9.6 g | CC1=C(C=CC2=C1SCCS2)C(=O)OC | C11H12O2S2
reactant | sodium hydroxide | 0.06 mol, 2.4 g | [OH-].[Na+]
solvent | water methanol | O.CO
product | 8-Methyl-2,3-dihydrobenz[1,4]dithiin-7-carboxylic acid | CC1=C(C=CC2=C1SCCS2)C(=O)O | C10H10O2S2
